US04826856
(a) 2-Piperidinoethanol-acetoacetate
Diketene (8.1 ml) was added dropwise to 2-piperidinoethanol (9.36 ml) and triethylamine (0.05 ml) under stirring, so as to keep the temperature at 60°-70° C. (exothermic reaction). When the addition was over, the mixture was stirred at 80° for 40'. 12.4 g of the product were obtained by vacuum (2 mmHg) distillation. The NMR spectrum was in agreement.

reactant | Diketene | 8.1 ml | C=C1CC(=O)O1 | C4H4O2
reactant | 2-piperidinoethanol | 9.36 ml | N1(CCCCC1)CCO | C7H15NO
solvent | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
product | 2-Piperidinoethanol acetoacetate | 12.4 g | N1(CCCCC1)CCO.C(CC(=O)C)(=O)[O-] | InChI=1S/C7H15NO.C4H6O3/c9-7-6-8-4-2-1-3-5-8;1-3(5)2-4(6)7/h9H,1-7H2;2H2,1H3,(H,6,7)/p-1
